US04402960
3.12 g of 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole is dissolved in 100 ml of absolute dimethylformamide and combined with 0.6 g of sodium hydride (80% strength in white oil). The mixture is further agitated for 30 minutes, and then 1.52 g of 4-chloropyridine hydrochloride is added. The mixture is refluxed under argon for 16 hours. Then the solution is poured into 300 ml of ice water, the product is extracted with ethyl acetate, the organic solution is dried over sodium sulfate and concentrated to dryness under vacuum. The residue is recrystallized from acetone/ether, thus obtaining 3.19 g of 4,5-bis(4-methoxyphenyl)-2-(4-pyridylthio)imidazole, mp 177°-179°.

reactant | 4,5-bis(4-methoxyphenyl)-2-mercaptoimidazole | 3.12 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)S | C17H16N2O2S
reactant | sodium hydride | 0.6 g | [H-].[Na+]
reactant | 4-chloropyridine hydrochloride | 1.52 g | Cl.ClC1=CC=NC=C1
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4,5-bis(4-methoxyphenyl)-2-(4-pyridylthio)imidazole | 3.19 g | COC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)OC)SC1=CC=NC=C1 | C22H19N3O2S
